US09028976B2
An amount of 3.74 g (10 mmol) of 9,10-diphenylanthracene-2-boronic acid synthesized in the same manner as in Exemplary Synthesis 1, 9.44 g (40 mmol) of p-dibromobenzene, and 300 mg of tetrakis triphenylphosphine palladium as catalysis were dissolved in a mixed solvent of 60 ml of toluene and 15 ml of ethanol. Then, 30 ml of 2M sodium carbonate solution was added and allowed to react at 90° C. for 12 hours. After the reaction was completed, the organic layer was separated and purified by column chromatography to obtain 2.32 g (5.15 mmol) of 2-(4-bromophenyl)-9,10-diphenylanthracene. The yield was 51.5%.

reactant | 9,10-diphenylanthracene-2-boronic acid | 10 mmol, 3.74 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)B(O)O)C1=CC=CC=C1 | C26H19BO2
reactant | p-dibromobenzene | 40 mmol, 9.44 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | sodium carbonate | 2M, 30 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(4-bromophenyl)-9,10-diphenylanthracene | 5.15 mmol, 2.32 g, yield was 51.5% | BrC1=CC=C(C=C1)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H21Br
